US05075304
c. N-ethoxalyl-N-methyl-2-nitro-6-methylaniline
NaH (1 g, 22 mmol) was added in portions to a stirred solution of N-ethoxalyl-2-nitro-6-methylaniline (5 g, 20 mmol) in DMF (50 ml). Methyl iodide (2 ml, 22 mmol) was thereafter added. The mixture was left overnight at room temperature, whereafter the solvent was removed by evaporation in vacuo. The residue was partitioned between ether and water. The organic phase was washed with water, dried over Na2SO4 and evaporated to give the title compound as an oil.

reactant | NaH | 22 mmol, 1 g | [H-].[Na+]
reactant | N-ethoxalyl-2-nitro-6-methylaniline | 20 mmol, 5 g | C(=O)(C(=O)OCC)NC1=C(C=CC=C1C)[N+](=O)[O-] | C11H12N2O5
reactant | Methyl iodide | 22 mmol, 2 ml | CI | CH3I
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-ethoxalyl-N-methyl-2-nitro-6-methylaniline | C(=O)(C(=O)OCC)N(C1=C(C=CC=C1C)[N+](=O)[O-])C | C12H14N2O5
